US05654326
By the method used in Example 1, Part D, 630 g (2.3 mmol) of 2-cyclopropyl-4-methoxy-1-(phenylmethyl)-1H-indole was O-demethylated by treating it with 9 mL of 1M BBr3 /CH2Cl2. The crude product was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 316 mg (52% yield) of 2-cyclopropyl-4-hydroxy-1-(phenylmethyl)-1H-indole as an oil.

reactant | 2-cyclopropyl-4-methoxy-1-(phenylmethyl)-1H-indole | 2.3 mmol, 630 g | C1(CC1)C=1N(C2=CC=CC(=C2C1)OC)CC1=CC=CC=C1 | C19H19NO
reactant | BBr3 CH2Cl2 | 1M, 9 mL | B(Br)(Br)Br.C(Cl)Cl
product | 2-cyclopropyl-4-hydroxy-1-(phenylmethyl)-1H-indole | 316 mg, 52% yield | C1(CC1)C=1N(C2=CC=CC(=C2C1)O)CC1=CC=CC=C1 | C18H17NO
